US06307047B1
2-(3-Chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
To a 0° C. solution of 2-(3-chlorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone, prepared in Example 332, (6.79 g, 16 mmol) in pyridine (160 mL) was added p-toluenesulfonyl chloride (3.06 g, 16 mmol). The solution was left to warm slowly to room temperature with stirring under nitrogen. After 2.5 hours, the mixture was poured into H2O with constant stirring. The resulting off-white solid was filtered, rinsed with H2O and dried to provide the desired product (yield: 6.26 g, 79%). mp 198-200° C. 1H NMR (300 MHz, DMSO d6) δ 2.35 (s, 3H), 3.28 (s, 3H), 7.20 (m, 2H), 7.52-7.64 (M, 5H), 7.70 (m, 3H), 7.89 (m, 2H), 8.32 (s, 1H). MS APCI+531 (M+H)+, 548 (M+H2O)+, APCI−493 (M+35)−. Anal. calc. for C24H19ClN2O6S2: C, 54.29; H, 3.61; N, 5.28. Found: C, 54.55; H, 3.46; N, 5.57.

reactant | 2-(3-chlorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C17H13ClN2O4S
reactant | p-toluenesulfonyl chloride | 16 mmol, 3.06 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | O | H2O
solvent | pyridine | 160 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3-Chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 6.26 g, 79% | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19ClN2O6S2
